US09226922B2
Into a 20-L 4-necked round-bottom flask was placed methyl 4,6-dichloropyridine-3-carboxylate (1200 g, 5.82 mol), ethanol (10 L), and triethylamine (1182 g, 11.68 mol). NH2NH2.H2O (351 g, 7.02 mol) was then added drop-wise to the reaction mixture at 0° C. The resulting solution was heated to reflux for 1 h. The reaction mixture was cooled to room temperature. The solid was collected by filtration to give methyl 6-chloro-4-hydrazinylnicotinate, which was carried onto the next step without further purification.

reactant | methyl 4,6-dichloropyridine-3-carboxylate | 5.82 mol, 1200 g | ClC1=C(C=NC(=C1)Cl)C(=O)OC | C7H5Cl2NO2
reactant | triethylamine | 11.68 mol, 1182 g | C(C)N(CC)CC | C6H15N
reactant | NH2NH2.H2O | 7.02 mol, 351 g | NN.O
solvent | ethanol | 10 L | C(C)O | C2H6O
product | methyl 6-chloro-4-hydrazinylnicotinate | ClC1=NC=C(C(=O)OC)C(=C1)NN | C7H8ClN3O2
